US07989458B2
(1H-Indol-4-ylmethyl)-{2-pyridin-2-yl-6-[5-(1H-tetrazol-5-yl)-pyridin-3-yl]-pyrimidin-4-yl}-amine
A solution of 5-(6-[(1H-indol-4-ylmethyl)-amino]-2-pyridin-2-yl-pyrimidin-4-yl)-nicotinonitrile (Ex. 2.9) (50 mg, 0.124 mmol) in DME (2 ml) under an inert atmosphere of argon is treated with trimethylsilyl azide (5 eq, 70 mg, 0.248) and dibutyltin oxide (0.3 eq, 9.3 mg). The resulting mixture is heated at reflux for 4 hours and then allowed to cool to room temperature. On cooling, a solid precipitates which is collected by filtration, washed with MeOH and dried in vacuo at 40° C. overnight to afford the title compound [M+H]+=447.

reactant | 5-(6-[(1H-indol-4-ylmethyl)-amino]-2-pyridin-2-yl-pyrimidin-4-yl)-nicotinonitrile | 0.124 mmol, 50 mg | N1C=CC2=C(C=CC=C12)CNC1=CC(=NC(=N1)C1=NC=CC=C1)C=1C=NC=C(C#N)C1 | C24H17N7
reactant | trimethylsilyl azide | 70 mg, 5 eq | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 9.3 mg, 0.3 eq | C(CCC)[Sn](CCCC)=O
solvent | DME | 2 ml | COCCOC | C4H10O2
product | (1H-Indol-4-ylmethyl)-{2-pyridin-2-yl-6-[5-(1H-tetrazol-5-yl)-pyridin-3-yl]-pyrimidin-4-yl}-amine | N1C=CC2=C(C=CC=C12)CNC1=NC(=NC(=C1)C=1C=NC=C(C1)C1=NN=NN1)C1=NC=CC=C1 | C24H18N10
